US06538016B2
A mixture of (S)-N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-2-methanesulfonylamino-3-methyl-butyramide (2.5 g), E-(3-bromo-propenyl)-benzene(1.5 g) and sodium methoxide (9 ml 1M solution in methanol) in methanol (30 ml) is heated to reflux for 4 hours. Upon cooling water (400 ml) is added. The mixture is extracted with ethyl acetate (2×300 ml). The organic layers are washed with brine (100 ml), dried (MgSO4) and evaporated. The resulting residue is purified by recrystallisation (ethyl acetate/hexane). E-(S)-2-Ethanesulfonylamino-N-{2-[3-methoxy-4-(3-phenyl-allyloxy)-phenyl]-ethyl}-3-methyl-butyramide is obtained, m.p. 128-133° C.

reactant | (S)-N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-2-methanesulfonylamino-3-methyl-butyramide | 2.5 g | OC1=C(C=C(C=C1)CCNC([C@H](C(C)C)NS(=O)(=O)C)=O)OC | C15H24N2O5S
reactant | E-(3-bromo-propenyl)-benzene | 1.5 g | BrC/C=C/C1=CC=CC=C1 | C9H9Br
reactant | sodium methoxide | 1M, 9 ml | C[O-].[Na+]
reactant | water | 400 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | E-(S)-2-Ethanesulfonylamino-N-{2-[3-methoxy-4-(3-phenyl-allyloxy)-phenyl]-ethyl}-3-methyl-butyramide | C(C)S(=O)(=O)N[C@H](C(=O)NCCC1=CC(=C(C=C1)OC\C=C\C1=CC=CC=C1)OC)C(C)C | C25H34N2O5S
